US03957489
4-Anilino-2-methoxybenzenediazonium hexafluoroarsenate was prepared by reacting 4-anilino-2-methoxybenzenediazonium chloride with hexafluoroarsenic acid in water. The resultant produt gave a 90% yield which melted at 167° (dec.) and assayed over 95%. When the product was recrystallized from methanol it melted at 171.5° (dec.); analysis 9.69%, 9.76% N; calculated 10.12% N. The product has a maximum molar absorptivity at 365 mμ of 31,900 in methanol. Film bases of cellulose triacetate and cellulose diacetate film were coated with the following solution:2-Butanone 50 mlMethanol 50 ml5-Sulfosalicyclic acid 1.75 g.3-Hydroxy-2-naphth-o-toluidide 0.6 g.N-Benzylacetoacetamide 0.4 g.Methyl Violet B (4 g) in 1 ml 1000 ml of 2-methoxyethanol4-Anilino-2-methoxybenzenediazonium 2.0 g. hexafluoroarsenate

reactant | 4-anilino-2-methoxybenzenediazonium chloride | [Cl-].N(C1=CC=CC=C1)C1=CC(=C(C=C1)[N+]#N)OC
reactant | hexafluoroarsenic acid | F[As-](F)(F)(F)(F)F.[H+]
solvent | water | O | H2O
product | 4-Anilino-2-methoxybenzenediazonium hexafluoroarsenate | 90% yield | F[As-](F)(F)(F)(F)F.N(C1=CC=CC=C1)C1=CC(=C(C=C1)[N+]#N)OC | InChI=1S/C13H12N3O.AsF6/c1-17-13-9-11(7-8-12(13)16-14)15-10-5-3-2-4-6-10;2-1(3,4,5,6)7/h2-9,15H,1H3;/q+1;-1
